US04654363
Step K: Preparation of 3-(4,7-Dichloro-2-methylnaphthalen-1-yl)propanal
Ethyl 3-(4,7-dichloro-2-methylnaphthalen-1-yl)propanoate (1.583 g, 5.087 mmoles) was dissolved in dry toluene (25 ml) under nitrogen with syringe cap attached to flask. The soluton was cooled to -78° C. in dry ice-acetone bath and diisobutylaluminum hydride (3.62 ml of a 1.5M solution in toluene; 5.443 mmoles ) was added dropwise slowly by syringe. Stirring was continued at -78° C. for 1 hour. Then while still at -78° C., the reaction was poured quickly into an aqueous NH4Cl solution with stirring. This mixture was extracted two times with ether. The combined ether extracts were extracted successively with NH4Cl solution, water, brine, then dried (MgSO4), filitered, and the solvent evaporated to leave a solid. This solid was triturated with a little ether in hexane to give 0.701 g of pure solid product, mp 104°-106° C. The solvent was stripped from the mother liquor to give 0.681 g of impure product. This impure product was flash chromatographed on a 20×200 mm silica column eluting with 70% CH2Cl2 in hexane to give 0.45 g of pure solid product mp 103°-105° C. Combining the two samples of pure solid product gave 1.15 g of pure title, compound mp 104°-106° C. after drying;

reactant | Ethyl 3-(4,7-dichloro-2-methylnaphthalen-1-yl)propanoate | 5.087 mmoles, 1.583 g | ClC1=CC(=C(C2=CC(=CC=C12)Cl)CCC(=O)OCC)C | C16H16Cl2O2
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | NH4Cl | [NH4+].[Cl-]
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | dry ice acetone | C(=O)=O.CC(=O)C
product | 3-(4,7-Dichloro-2-methylnaphthalen-1-yl)propanal | 0.701 g | ClC1=CC(=C(C2=CC(=CC=C12)Cl)CCC=O)C | C14H12Cl2O
